US05482967
6-Chloro-N-(2,6-dimethoxybenzyl)-4-(2-methylphenyl)-2-oxo-2H-1-benzopyran-3-acetamide
6-Chloro-4-(2-methylphenyl)-2-oxo-2H -1-benzopyran-3-acetic acid was reacted with 2,6-dimethoxybenzylamine by a method similar to Example 1(A) to yield the title compound.

reactant | 6-Chloro-4-(2-methylphenyl)-2-oxo-2H -1-benzopyran-3-acetic acid | ClC=1C=CC2=C(C(=C(C(O2)=O)CC(=O)O)C2=C(C=CC=C2)C)C1 | C18H13ClO4
reactant | 2,6-dimethoxybenzylamine | COC1=C(CN)C(=CC=C1)OC | C9H13NO2
product | 6-Chloro-N-(2,6-dimethoxybenzyl)-4-(2-methylphenyl)-2-oxo-2H-1-benzopyran-3-acetamide | ClC=1C=CC2=C(C(=C(C(O2)=O)CC(=O)NCC2=C(C=CC=C2OC)OC)C2=C(C=CC=C2)C)C1 | C27H24ClNO5
